US07547691B2
A stirred mixture of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid dimethylamide (473 mg, 1.43 mmol), 4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester (814 mg, 3.56 mmol) and diisopropylethylamine (0.747 mL, 4.29 mmol) in 1,4-dioxane (5 mL) is heated at 97° C. under nitrogen for 2 days. At room temperature the mixture is concentrated and the crude product is chromatographed on silica gel, eluting with MeOH in dichloromethane 0-2%, to give 4-{2-[4-(6-dimethylcarbamoyl-benzo[b]thiophen-2-yl)-5-methylpyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester. The intermediate is then subject to deprotection by dissolving in dichloromethane (20 mL) and treating with triethylsilane (0.9 mL) and TFA (4 mL). The resultant yellow solution is stirred at room temperature for 1 hour. After concentration and subsequent chromatography on silica gel, eluting with 2.0 M NH3/MeOH in dichloromethane 3-12%, the fractions containing the desired product are collected and concentrated to give yellow foam. This foam is dissolved in MeOH (20 mL), treated with 0.5 N LiOH (20 mL) then concentrated to give the crude product of the title compound as yellow foam. It is used for next reductive methylation without further purification.

reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid dimethylamide | 1.43 mmol, 473 mg | CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1)C | C16H14ClN3OS
reactant | 4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.56 mmol, 814 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | diisopropylethylamine | 4.29 mmol, 0.747 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-{2-[4-(6-dimethylcarbamoyl-benzo[b]thiophen-2-yl)-5-methylpyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=C(C=C2)C(N(C)C)=O)C | C28H37N5O3S
